US06245804B1
5-[4-(4-Iodophenyl)-4-methyl-2-oxo-valeroylamino)-phthalide
was obtained analogously to the process that is described for 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide from 5-aminophthalide and 4-(4-iodophenyl)-4-methyl-2-oxo-valeric acid as an oil.

reactant | 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide | BrC1=C2COC(=O)C2=CC=C1NC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C20H18BrNO4
reactant | 5-aminophthalide | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
reactant | 4-(4-iodophenyl)-4-methyl-2-oxo-valeric acid | IC1=CC=C(C=C1)C(CC(C(=O)O)=O)(C)C | C12H13IO3
product | 5-[4-(4-Iodophenyl)-4-methyl-2-oxo-valeroylamino)-phthalide | IC1=CC=C(C=C1)C(CC(C(=O)NC=1C=C2COC(=O)C2=CC1)=O)(C)C | C20H18INO4
